US09328099B2
Step A. 4-Oxocyclohex-1-ene-1-carbonitrile
In a sealed tube, {[(3E)-4-methoxybuta-1,3-dien-2-yl]oxy}(trimethyl)silane (5.65 mL, 29.0 mmol) and acrylonitrile (1.91 mL, 29.0 mmol) were combined in benzene (9.67 mL), heated to reflux, and allowed to stir for 16 hours. The reaction mixture was then cooled to ambient temperature and the volatiles were removed in vacuo (23° C. water bath). The residue was stirred into a mixture of 1N aqueous HCl (29.0 mL, 29.0 mmol) and THF (9.67 mL). After being stirred at ambient temperature for 3 hours, the reaction mixture was extracted with diethyl ether. The organic layer was washed with de-ionized water (2×), brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo (23° C. water bath). The residue was purified by MPLC on silica gel (using a gradient elution of 0-50% hexanes/acetone). Desired fractions were identified, combined and concentrated in vacuo (23° C. water bath) to afford the title compound.

reactant | {[(3E)-4-methoxybuta-1,3-dien-2-yl]oxy}(trimethyl)silane | 29.0 mmol, 5.65 mL | CO/C=C/C(=C)O[Si](C)(C)C | C8H16O2Si
reactant | acrylonitrile | 29.0 mmol, 1.91 mL | C(C=C)#N | C3H3N
reactant | HCl | 29.0 mmol, 1N, 29.0 mL | Cl | ClH
reactant | THF | 9.67 mL | C1CCOC1 | C4H8O
solvent | benzene | 9.67 mL | C1=CC=CC=C1 | C6H6
product | 4-Oxocyclohex-1-ene-1-carbonitrile | O=C1CC=C(CC1)C#N | C7H7NO
